US08497264B2
Azidotrimethylsilane (1.432 mL, 10.79 mmol) and borontriflouride etherate (1.368 mL, 10.79 mmol) were added sequentially to a solution of 7-bromo-3-chloro-5-(1-hydroxypropan-2-yl)-5H-chromeno[2,3-c]pyridin-5-ol (2000 mg, 5.40 mmol) in THF (50 mL). The reaction mixture was heated to 66° C. After 12 h reaction time, additional azidotrimethylsilane (1.432 mL, 10.79 mmol) and borontriflouride etherate (1.368 mL, 10.79 mmol) were added and the reaction mixture was continued to be heated to 65° C. After 24 h reaction time, additional azidotrimethylsilane (1.432 mL, 10.79 mmol) and borontriflouride etherate (1.368 mL, 10.79 mmol) were added and the reaction mixture was continued to be heated to 65° C. After 32 h reaction time, the reaction mixture was cooled to rt and aqueous saturated bicarbonate solution was added carefully, followed by EtOAc. The organic phase was separated and dried over MgSO4. The solvent was removed under reduced pressure and the residue was purified by flash chromatography (10-55% EtOAc/hexanes). 2-(5-azido-7-bromo-3-chloro-5H-chromeno[2,3-c]pyridin-5-yl)propan-1-ol (1.32 g, 85% purity) was isolated of a white solid and taken onto the next step without further purification.

reactant | Azidotrimethylsilane | 10.79 mmol, 1.432 mL | N(=[N+]=[N-])[Si](C)(C)C | C3H9N3Si
reactant | borontriflouride etherate | 10.79 mmol, 1.368 mL | B(F)(F)F.CCOCC
reactant | 7-bromo-3-chloro-5-(1-hydroxypropan-2-yl)-5H-chromeno[2,3-c]pyridin-5-ol | 5.40 mmol, 2000 mg | BrC=1C=C2C(C3=C(C=NC(=C3)Cl)OC2=CC1)(O)C(CO)C | C15H13BrClNO3
reactant | azidotrimethylsilane | 10.79 mmol, 1.432 mL | N(=[N+]=[N-])[Si](C)(C)C | C3H9N3Si
reactant | borontriflouride etherate | 10.79 mmol, 1.368 mL | B(F)(F)F.CCOCC
reactant | azidotrimethylsilane | 10.79 mmol, 1.432 mL | N(=[N+]=[N-])[Si](C)(C)C | C3H9N3Si
reactant | borontriflouride etherate | 10.79 mmol, 1.368 mL | B(F)(F)F.CCOCC
reactant | bicarbonate | C([O-])(O)=O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-(5-azido-7-bromo-3-chloro-5H-chromeno[2,3-c]pyridin-5-yl)propan-1-ol | 1.32 g, 85% | N(=[N+]=[N-])C1(C2=CC(=CC=C2OC=2C=NC(=CC21)Cl)Br)C(CO)C | C15H12BrClN4O2
